US04950746
Sucrose (5.00 g, 1.00 mol equiv) was dissolved in DMF (20 ml) at 55° C. Dibutyltin dimethoxide (4.35 G, 1.01 mol equiv) was added and aspirator vacuum was applied. The mixture was stirred under vacuum for 1 hour, and then cooled to ambient temperature. (The dibutyltin dimethoxide reacts in situ with trace amounts of water to form 1,3-dimethoxy-1,1,3,3-tetrabutyldistannoxane.) Benzoic anhydride (4.00 g, 1 21 mol equiv) was added and the resultant solution was stirred at room temperature for 3 hours, at this time tlc (silica gel, eluant 15:10:2 chloroform:methanol:water) showed complete conversion to sucrose-6-benzoate. The DMF was evaporated at reduced pressure and the residue (15.8 g) dissolved in acetone (50 ml). Sucrose-6-benzoate crystallized on stirring at room temperature. The slurry was stirred for 48 hours at 0° C., filtered, and the product washed with acetone (2×20 ml) and dried in vacuo at 40° C. Yield 5.18 g. Assay: 96.3% sucrose-6-benzoate.

reactant | Sucrose | 1.00 mol, 5.00 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | Dibutyltin dimethoxide | 1.01 mol | C[O-].C[O-].C(CCC)[Sn+2]CCCC
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,3-dimethoxy-1,1,3,3-tetrabutyldistannoxane | CO[Sn](O[Sn](CCCC)(CCCC)OC)(CCCC)CCCC | InChI=1S/4C4H9.2CH3O.O.2Sn/c4*1-3-4-2;2*1-2;;;/h4*1,3-4H2,2H3;2*1H3;;;/q;;;;2*-1;;2*+1
